US07851493B2
To a solution of 359 mg of trifluoroethanol in 3 mL of anhydrous tetrahydrofuran at 5° C. was slowly added 3.6 mL of a molar solution of potassium tert-butoxide in tert-butanol. The resulting solution was stirred for 30 minutes at 5° C. and slowly added to a solution of 500 mg of 2,4-difluoro-benzonitrile in 3 mL of anhydrous tetrahydrofuran at 5° C. The resulting mixture was stirred for 1 h at 5° C., then poured into water and extracted with ethyl acetate. The organic extracts were dried over magnesium sulfate, filtered and concentrated under reduced pressure. The crude product was purified by column chromatography on silica gel (gradient from heptane 100 to heptane 90/ethyl acetate 10) to give 640 mg of 4-fluoro-2-(2,2,2-trifluoro-ethoxy)-benzonitrile as a white solid.

reactant | trifluoroethanol | 359 mg | C(C(F)(F)F)O | C2H3F3O
reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
reactant | 2,4-difluoro-benzonitrile | 500 mg | FC1=C(C#N)C=CC(=C1)F | C7H3F2N
reactant | water | O | H2O
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | tert-butanol | C(C)(C)(C)O | C4H10O
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | 4-fluoro-2-(2,2,2-trifluoro-ethoxy)-benzonitrile | 640 mg | FC1=CC(=C(C#N)C=C1)OCC(F)(F)F | C9H5F4NO
